US07126012B2
Step A: 1-[(4-Chlorophenyl)thio]-1-phenylacetone
In a 100 ml round-bottomed flask, 1 eq. of 4-chlorothiophenol is dissolved in 4 eq. of pyridine and 50 ml of anhydrous ether, with magnetic stirring. 1.2 eq. of bromophenylacetone are then added dropwise and stirring is then carried out overnight at ambient temperature. The reaction mixture is then poured onto ice-cold water and is extracted with ethyl acetate. The organic phase is washed with 1M HCl solution and then with water, is dried over MgSO4 and is evaporated under reduced pressure. The residue obtained is purified by chromatography on a silica gel column.

reactant | 4-chlorothiophenol | 1 eq. | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | pyridine | 4 eq. | N1=CC=CC=C1 | C5H5N
reactant | bromophenylacetone | 1.2 eq. | BrC(C(C)=O)C1=CC=CC=C1 | C9H9BrO
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1-[(4-Chlorophenyl)thio]-1-phenylacetone | ClC1=CC=C(C=C1)SC(C(=O)C)C1=CC=CC=C1 | C15H13ClOS
